US06476045B2
5-Methyl-2-(4-methylphenyl)-1H-benzimidazole
4-Methylbenzoyl chloride (2.17 mL, 2.54 g, 16.4 mmol) in dichloromethane (25 mL) was added dropwise to a stirred, cooled (0° C.) solution of 4-methyl-1,2-benzenediamine (2.0 g, 16.4 mmol) and triethylamine (4.57 mL, 3.32 g, 33 mmol) in dichloromethane (25 mL) and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, acetic acid (40 mL) was added and the mixture was stirred at 100° C. for 24 h. The solvent was evaporated under reduced pressure, water (100 mL) was added and the pH was adjusted to 7.0 with aqueous sodium carbonate (10%). Ethyl acetate (50 mL) was added, the layers were separated and the aqueous layer was extracted with ethyl acetate (4×35 mL). The combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethanol, heated to reflux and allowed to cool. The mixture was filtered and the solvent was evaporated under reduced pressure to give the title compound (1.17 g, 32%). 1H NMR (360 MHz, CDCl3) δ 7.92 (2H, d, J 8.2 Hz), 7.52 (1H, d, J 8.1 Hz), 7.38 (1H, d, J 1.0 Hz), 7.27 (2H, d, J 8.2 Hz), 7.08 (1H, dd, J 8.1, 1.0 Hz), 2.47 (3H, s), and 2.40 (3H, s). m/z (ES+) 223 (M+1).

reactant | 4-Methylbenzoyl chloride | 16.4 mmol, 2.17 mL, 2.54 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 4-methyl-1,2-benzenediamine | 16.4 mmol, 2.0 g | CC=1C=C(C(=CC1)N)N | C7H10N2
reactant | triethylamine | 33 mmol, 4.57 mL, 3.32 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-Methyl-2-(4-methylphenyl)-1H-benzimidazole | 1.17 g, 32% | CC1=CC2=C(NC(=N2)C2=CC=C(C=C2)C)C=C1 | C15H14N2
